### PR TITLE
[Merged by Bors] - feat: define `prodPrimeFactors` as an `ArithmeticFunction`

### PR DESCRIPTION
**Pull request by amellendijk**
Define the arithmetic function $n \mapsto \prod_{p \mid n} f(p)$. This PR further proves that it's multiplicative and relates it to Dirichlet convolution. Finally it proves two identities that can be applied in a context where you're not working exclusively with `ArithmeticFunction`s

This construction was mentioned on [zulip](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/finite.20product.20of.20infinite.20sums/near/379577022)

---

`prodToFinsetFactors_add_of_squarefree` uses `Nat` division, as discussed earlier in #6344. To summarise why I think it is helpful:
On the LHS we have a product over the distinct factors of `n`, which is expanded to a product over the subsets of `factors n`.
On the RHS we have Dirichlet convolution. The natural thing to try is to write it as a sum over `divisorsAntidiagonal`, but relating that to subsets of `factors n` is difficult. Instead I write it as a sum over `divisors`, introducing `Nat` division, so that I can apply the existing (nontrivial!) theorem [Nat.sum_divisors_filter_squarefree](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Squarefree.html#Nat.sum_divisors_filter_squarefree), which perfectly lines up the sums along the powerset. 

Avoiding `Nat` division here would mean re-proving `Nat.sum_divisors_filter_squarefree` for `divisorsAntidiagonal` (likely only for squarefree `n`, since you can't filter by `Squarefree`). I claim it's easier to have a six-line lemma about `Nat` division instead.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 1]
```diff
@@ -591,6 +595,33 @@ theorem pdiv_zeta [DivisionSemiring R] (f : ArithmeticFunction R) :
 
 end Pdiv
 
+section ProdToFinsetFactors
+
+def prodToFinsetFactors [CommMonoidWithZero R] (f : ℕ → R) : ArithmeticFunction R :=
+  ⟨fun d => if d = 0 then 0 else ∏ p in d.factors.toFinset, f p, if_pos rfl⟩
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/ArithmeticFunction.lean:601]:
```suggestion
def prodToFinsetFactors [CommMonoidWithZero R] (f : ℕ → R) : ArithmeticFunction R where
  toFun d := if d = 0 then 0 else ∏ p in d.factors.toFinset, f p
  map_zero' := if_pos rfl
```

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 2]
```diff
@@ -591,6 +595,33 @@ theorem pdiv_zeta [DivisionSemiring R] (f : ArithmeticFunction R) :
...
+scoped syntax (name := bigproddvd) "∏ᵖ " extBinder " ∣ " term ", " term:67 : term
+scoped macro_rules (kind := bigproddvd)
+  | `(∏ᵖ $x:ident ∣ $n, $r) => `(prodToFinsetFactors (fun $x ↦ $r) $n)
+
+scoped syntax (name := bigproddvdarith) "∏ᵖ " term:67 : term
+scoped macro_rules (kind := bigproddvdarith)
+  | `(∏ᵖ $f) => `(prodToFinsetFactors $f)
+
+@[simp]
+theorem prodToFinsetFactors_apply [CommMonoidWithZero R] {f: ℕ → R} {n : ℕ} [hn : NeZero n] :
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/ArithmeticFunction.lean:614]: This looks like a mis-use of `NeZero` to me

Comment (FLDutchmann) [reply Mathlib/NumberTheory/ArithmeticFunction.lean:614]: I chose to do this based on a [suggestion](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/finite.20product.20of.20infinite.20sums/near/379584701) by @kbuzzard, and it does come in handy for `prodToFinsetFactors` in that (a) it works with `simp_rw` and (b) it automatically deduces `NeZero (x*y)`

**Comment by alreadydone** [comment]
> Define the arithmetic function $n \mapsto \prod_{p \mid n} f(p)$.

For f = id this is the radical of n and can be used to state the abc conjecture, now that we have #6508 ...

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 3]
```diff
@@ -591,6 +595,37 @@ theorem pdiv_zeta [DivisionSemiring R] (f : ArithmeticFunction R) :
...
+  map_zero' := if_pos rfl
+
+open Std.ExtendedBinder
+
+/-- `∏ᵖ p ∣ n, f p` is custom notation for `prodToFinsetFactors f n` -/
+scoped syntax (name := bigproddvd) "∏ᵖ " extBinder " ∣ " term ", " term:67 : term
+scoped macro_rules (kind := bigproddvd)
+  | `(∏ᵖ $x:ident ∣ $n, $r) => `(prodToFinsetFactors (fun $x ↦ $r) $n)
+
+/-- `∏ᵖ f` is custom notation for `prodToFinsetFactors f` -/
```
Comment (b-mehta) [inline Mathlib/NumberTheory/ArithmeticFunction.lean:612]: I'm not sure this notation is a good idea - it could also refer to the product over primes (rather than prime divisors of a fixed number)

Comment (FLDutchmann) [reply Mathlib/NumberTheory/ArithmeticFunction.lean]: That's a fair concern. It was only used in one place so I've removed it. 

It does make me think about other possible notations for the bare arithmetic function. Something like `∏ᵖ p ∣ _, f p` or `∏ᵖ p ∣ ·, f p` comes to mind but they obviously interfere with much more fundamental notation.

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 4]
```diff
@@ -590,6 +594,32 @@ theorem pdiv_zeta [DivisionSemiring R] (f : ArithmeticFunction R) :
...
+scoped syntax (name := bigproddvd) "∏ᵖ " extBinder " ∣ " term ", " term:67 : term
+scoped macro_rules (kind := bigproddvd)
+  | `(∏ᵖ $x:ident ∣ $n, $r) => `(prodToFinsetFactors (fun $x ↦ $r) $n)
+
+@[simp]
+theorem prodToFinsetFactors_apply [CommMonoidWithZero R] {f: ℕ → R} {n : ℕ} [hn : NeZero n] :
+    ∏ᵖ p ∣ n, f p = ∏ p in n.factors.toFinset, f p :=
+  if_neg (hn.ne)
+
+theorem prodToFinsetFactors_apply_of_ne_zero [CommMonoidWithZero R] {f: ℕ → R} {n : ℕ}
```
Comment (jcommelin) [inline Mathlib/NumberTheory/ArithmeticFunction.lean:616]:
```suggestion
theorem prodToFinsetFactors_apply_of_ne_zero [CommMonoidWithZero R] { f: ℕ → R} {n : ℕ}
```

**Review by jcommelin — COMMENTED** [review]
`ToFinsetFactors` occurs in a lot of places. I think that's a sign that we should define the prime divisors of a number as a finset, and give it a name. Could be `factorsSet` or `factors'`. Or maybe we have a quick poll on zulip about a good name.

File: Mathlib/NumberTheory/ArithmeticFunction.lean (hunk 4 above)
Comment (FLDutchmann) [reply Mathlib/NumberTheory/ArithmeticFunction.lean:616]: See [zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/toFinsetFactors)

Comment (FLDutchmann) [reply Mathlib/NumberTheory/ArithmeticFunction.lean]: This was resolved by #8164

File: Mathlib/Data/Nat/Squarefree.lean [hunk 5]
```diff
@@ -434,6 +434,13 @@ theorem prod_factors_toFinset_of_squarefree {n : ℕ} (hn : Squarefree n) :
     ∏ p in n.factors.toFinset, p = n := by
   rw [List.prod_toFinset _ hn.nodup_factors, List.map_id', Nat.prod_factors hn.ne_zero]
 
+theorem prod_factors_sdiff_of_squarefree {n : ℕ} (hn : Squarefree n) {t : Finset ℕ}
+    (ht : t ⊆ n.factors.toFinset) :
```
Comment (jcommelin) [inline Mathlib/Data/Nat/Squarefree.lean:438]: This should now be `primeFactors`, right? (Also on the next line)

File: Mathlib/Data/Nat/Squarefree.lean [hunk 6]
```diff
@@ -434,6 +434,13 @@ theorem prod_factors_toFinset_of_squarefree {n : ℕ} (hn : Squarefree n) :
...
+    ∏ a in (n.factors.toFinset \ t), a = n / ∏ a in t, a := by
+  refine symm $ Nat.div_eq_of_eq_mul_left (Finset.prod_pos
+    fun p hp => (prime_of_mem_factors (List.mem_toFinset.mp (ht hp))).pos) ?_
+  rw [Finset.prod_sdiff ht, prod_factors_toFinset_of_squarefree  hn]
```
Comment (jcommelin) [inline Mathlib/Data/Nat/Squarefree.lean:442]:
```suggestion
  rw [Finset.prod_sdiff ht, prod_factors_toFinset_of_squarefree hn]
```

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 7]
```diff
@@ -590,6 +594,32 @@ theorem pdiv_zeta [DivisionSemiring R] (f : ArithmeticFunction R) :
...
+scoped syntax (name := bigproddvd) "∏ᵖ " extBinder " ∣ " term ", " term:67 : term
+scoped macro_rules (kind := bigproddvd)
+  | `(∏ᵖ $x:ident ∣ $n, $r) => `(prodPrimeFactors (fun $x ↦ $r) $n)
+
+@[simp]
+theorem prodPrimeFactors_apply [CommMonoidWithZero R] {f: ℕ → R} {n : ℕ} [hn : NeZero n] :
+    ∏ᵖ p ∣ n, f p = ∏ p in n.primeFactors, f p :=
+  if_neg (hn.ne)
+
+theorem prodPrimeFactors_apply_of_ne_zero [CommMonoidWithZero R] {f: ℕ → R} {n : ℕ}
```
Comment (jcommelin) [inline Mathlib/NumberTheory/ArithmeticFunction.lean:616]:
```suggestion
theorem prodPrimeFactors_apply_of_ne_zero [CommMonoidWithZero R] {f : ℕ → R} {n : ℕ}
```

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 8]
```diff
@@ -754,6 +796,31 @@ theorem eq_iff_eq_on_prime_powers [CommMonoidWithZero R] (f : ArithmeticFunction
...
+  haveI : NeZero y := ⟨hy⟩
+  simp_rw [prodPrimeFactors_apply]
+  rw[Nat.primeFactors_mul hx hy, ← Finset.prod_union hxy.disjoint_primeFactors]
+
+theorem prodPrimeFactors_add_of_squarefree [CommSemiring R] {f g : ArithmeticFunction R}
+    (hf : IsMultiplicative f) (hg : IsMultiplicative g) {n : ℕ} (hn : Squarefree n) :
+    ∏ᵖ p ∣ n, (f + g) p = (f * g) n := by
+  rw [prodPrimeFactors_apply_of_ne_zero hn.ne_zero]
+  simp_rw [add_apply (f:=f) (g:=g)]
+  rw [Finset.prod_add, mul_apply, sum_divisorsAntidiagonal (f:= λ x y => f x * g y),
```
Comment (jcommelin) [inline Mathlib/NumberTheory/ArithmeticFunction.lean:815]:
```suggestion
  rw [Finset.prod_add, mul_apply, sum_divisorsAntidiagonal (f := fun x y => f x * g y),
```
You might also be able to write `(f \. * g \.)` for that lambda expression. (Where `\.` should be a centerdot.)

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
